US06893815B1
2-piperazinyl-6-[N-(trimethylsilylethoxycarbonyl)piperazinyl] purine
2-Chloro-6-[N-(trimethylsilylethoxycarbonyl)piperazinyl] purine (17.10 g, 44.66 mmol) and piperazine (23.08 g, 268 mmol) were suspended in EtOH (200 mL) in a bomb reactor. The bomb reactor was heated to 145° C. for 24 hours. The reaction progress was monitored by thin layer chromatography NH4OH:MeOH:EtOAc (5/5/90, v/v/v) which showed disappearance of starting material and formation of a new product spot after 24 hours. The EtOH was evaporated and water (700 mL) was added to the residue. The resulting precipitate was filtered and dried in a vacuum oven at 110° C. for 24 hours to give 18.5 g (96%) of the title compound. 1H NMR (CDCl3): δ 0.02 (s, 9H), 1.01 (t, 2H), 2.99 (bs, 4H), 3.61 (bs, 4H), 3.74 (bs, 6H), 4.23 (bm, 6H), 7.59 (s, 1H).

reactant | 2-Chloro-6-[N-(trimethylsilylethoxycarbonyl)piperazinyl] purine | 44.66 mmol, 17.10 g | ClC1=NC(=C2NC=NC2=N1)C1N(CCNC1)C(=O)OCC[Si](C)(C)C | C15H23ClN6O2Si
reactant | piperazine | 268 mmol, 23.08 g | N1CCNCC1 | C4H10N2
reactant | NH4OH | [NH4+].[OH-]
reactant | MeOH | CO | CH4O
solvent | EtOH | 200 mL | CCO | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-piperazinyl-6-[N-(trimethylsilylethoxycarbonyl)piperazinyl] purine | 18.5 g, 96% | N1(CCNCC1)C1=NC(=C2NC=NC2=N1)C1N(CCNC1)C(=O)OCC[Si](C)(C)C | C19H32N8O2Si
